US05747489
A solution of 3.9 g of 3-(4-nitrobenzyl)-5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one in 40 ml of tetrahydrofuran is hydrogenated in the presence of Raney nickel. The catalyst is filtered off and the solution is concentrated. Recrystallization gives 3-(4-aminobenzyl)-5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one, m.p. 105°.

reactant | 3-(4-nitrobenzyl)-5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | 3.9 g | [N+](=O)([O-])C1=CC=C(CN2C(SC(C(=N2)C2=CC(=C(C=C2)OC)OC)CC)=O)C=C1 | C20H21N3O5S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 3-(4-aminobenzyl)-5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | NC1=CC=C(CN2C(SC(C(=N2)C2=CC(=C(C=C2)OC)OC)CC)=O)C=C1 | C20H23N3O3S
